US08486952B2
A solution of 8-phenyl-5,6,7,8-tetrahydro-2H-benzo[e][1,3]oxazine-2,4(3H)-dione (415.0 mg, 1.706 mmol) in concentrated ammonium hydroxide (35 mL, 899 mmol) was stirred at 100° C. in a high-pressure vessel (75 mL) for 6 h. The formation of white precipitate was observed during the heating. The LC/MS analysis of the filtrate shows the presence of the product with the desired mass (M+H)=243.20. The solvent was removed in vacuum to provide 8-phenyl-5,6,7,8-tetrahydroquinazoline-2,4(1H,3H)-dione (435 mg, 1.706 mmol, 100% yield) as off-white solid. LC-MS (M+H)+=243.2. 1H NMR (500 MHz, DMSO-d6) δ ppm 10.2 (2H, br. s.), 7.34 (2H, t, J=7.5 Hz), 7.26 (1H, t, J=7.3 Hz), 7.14 (2H, d, J=7.3 Hz), 3.80 (1H, br. s.), 2.32-2.43 (1H, m), 2.15 (1H, ddd, J=16.9, 10.5, 6.1 Hz), 1.93-2.04 (1H, m), 1.67-1.75 (1H, m), 1.56 (1H, ddd, J=7.8, 5.2, 2.6 Hz), 1.36 (1H, dt, J=13.1, 2.7 Hz).

reactant | 8-phenyl-5,6,7,8-tetrahydro-2H-benzo[e][1,3]oxazine-2,4(3H)-dione | 1.706 mmol, 415.0 mg | C1(=CC=CC=C1)C1CCCC=2C(NC(OC21)=O)=O | C14H13NO3
reactant | ammonium hydroxide | 899 mmol, 35 mL | [OH-].[NH4+]
product | 8-phenyl-5,6,7,8-tetrahydroquinazoline-2,4(1H,3H)-dione | 1.706 mmol, 435 mg, 100% yield | C1(=CC=CC=C1)C1CCCC=2C(NC(NC12)=O)=O | C14H14N2O2
